US08222248B2
4-Amino-2,6-dimethylbenzaldehyde (3.0 g, 20.1 mmol) was taken up in enough 42% HBF4 until the suspension stirred well and then was cooled to 0° C. To this was added a solution of NaNO2 (1.39 g, 20.1 mmol) in water (10 mL) slowly. After 30 min at 0° C., MeOH (50 mL) was added followed by Pd(OAc)2 (677 mg) and diethyl allylphosphonate (5.38 g, 30.2 mmol). The reaction mixture was heated to 80° C. for 30 min and the suspension was filtered through Celite, washed with CH2Cl2, and the filtrate was extracted with CH2Cl2. The combined organic layers were washed with water, brine, dried with MgSO4, and filtered. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using a gradient of heptane/EtOAc (10:1 to 5:1 then followed by 100% EtOAc) to give [(E)-3-(4-formyl-3,5-dimethylphenyl)-allyl]-phosphonic acid diethyl ester as a light yellow oil.

reactant | 4-Amino-2,6-dimethylbenzaldehyde | 20.1 mmol, 3.0 g | NC1=CC(=C(C=O)C(=C1)C)C | C9H11NO
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | NaNO2 | 20.1 mmol, 1.39 g | N(=O)[O-].[Na+]
reactant | diethyl allylphosphonate | 30.2 mmol, 5.38 g | C(C=C)P(OCC)(OCC)=O | C7H15O3P
solvent | water | 10 mL | O | H2O
catalyst | Pd(OAc)2 | 677 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | MeOH | 50 mL | CO | CH4O
product | [(E)-3-(4-formyl-3,5-dimethylphenyl)-allyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C\C=C\C1=CC(=C(C(=C1)C)C=O)C | C16H23O4P
